US07767651B2
1) Synthesis of 4-pyrazol-1-yl-phenylboronic acid
Under a nitrogen stream, to a solution of 1-(4-bromophenyl)-1H-pyrazole (995 mg, 4.46 mmol) in anhydrous THF (12 ml), a hexane solution of n-butyllithium (1.6 M, 2.79 ml, 4.46 mmol) was added dropwise at −78° C. After stirring at the same temperature for 1 hour, this solution was added dropwise at −78° C. to a solution of trimethyl borate (1.07 ml, 9.37 mmol) in anhydrous THF (8 ml). After stirring at the same temperature for 1 hour, the reaction mixture was stirred at room temperature for one day and a night. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate. After filtration, the solvent was concentrated under reduced pressure. The resulting residue was purified by flash column chromatography (developing solution=methylene chloride:methanol (50:1)) to give the titled compound (314 mg, 37%).

reactant | 1-(4-bromophenyl)-1H-pyrazole | 4.46 mmol, 995 mg | BrC1=CC=C(C=C1)N1N=CC=C1 | C9H7BrN2
reactant | n-butyllithium | 4.46 mmol, 1.6 M, 2.79 ml | C(CCC)[Li]
reactant | trimethyl borate | 9.37 mmol, 1.07 ml | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-pyrazol-1-yl-phenylboronic acid | 314 mg, 37% | N1(N=CC=C1)C1=CC=C(C=C1)B(O)O | C9H9BN2O2
